US08455532B2
(2) Synthesis of methyl 4-cyano-1-ethyl-3-methylpyrazol-5-ylcarboxylate
To a flask, methyl 1-ethyl-4-iodo-3-methylpyrazol-5-ylcarboxylate (1.00 g, 0.003 mol) was dissolved in 10 mL of DMF and copper (I) cyanide (0.46 g, 0.005 mol) was added in batches. After heating to reflux for 1 h, the mixture was separated by filtration. The filtrate was diluted with 50 mL of water, and then extracted with 50 mL of ethyl acetate. The organic layer was washed with 50 mL of saturated aqueous sodium bicarbonate solution and 50 mL of saturated brine, dried over anhydrous MgSO4 and concentrated under reduced pressure. Column chromatography (EtOAc:P.E.=1:10 as eluent) gave 0.53 g of the title compound as a yellow oil (yield 80%).

reactant | methyl 1-ethyl-4-iodo-3-methylpyrazol-5-ylcarboxylate | 0.003 mol, 1.00 g | C(C)N1N=C(C(=C1C(=O)OC)I)C | C8H11IN2O2
reactant | copper (I) cyanide | 0.005 mol, 0.46 g | [Cu]C#N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 4-cyano-1-ethyl-3-methylpyrazol-5-ylcarboxylate | 0.53 g, yield 80% | C(#N)C=1C(=NN(C1C(=O)OC)CC)C | C9H11N3O2
